US07919487B2
STEP-1: Synthesis of (2,6-Dichloro-pyrimidin-4-yl)-diethyl-amine L
To a stirred solution of 2.0 g (10.90 mmols) of 2,4,6-trichloropyrimidine in 25 mL of anhydrous ethanol at 0° C., was added drop wise a solution 0.79 g (10.90 mmols) of diethylamine in 5 mL of ethanol. This was followed by the addition of 2.3 mL (16.35 mmols) of triethylamine and the mixture was stirred for further 30 min. The mixture was then concentrated and 25 mL of CH2Cl2 and 25 mL of water were added. The organic layer was separated and the aqueous layer was extracted by additional amount of dichloromethane (2×10 mL) and the extracts were combined, dried over anhydrous Na2SO4 and concentrated. Column chromatography on silica gel afforded 1.48 g (62%) of L as colorless solid.

reactant | 2,4,6-trichloropyrimidine | 10.90 mmols, 2.0 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | diethylamine | 10.90 mmols, 0.79 g | C(C)NCC | C4H11N
reactant | triethylamine | 16.35 mmols, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2,6-Dichloro-pyrimidin-4-yl)-diethyl-amine | ClC1=NC(=CC(=N1)N(CC)CC)Cl | C8H11Cl2N3
